US04435394
To a solution of 3-[N-(dimethylaminosulfonyl)-amino]-4'-methoxybenzophenone (9 g) in ethanol (180 ml) is added hydroxylamine hydrochloride (11.23 g), and the resultant mixture is refluxed for 7 hours. The reaction mixture is concentrated in vacuum, and the residue is basified with aqueous sodium hydrogencarbonate and shaken with methylene chloride. The methylene chloride layer is washed with water, dried over anhydrous sodium sulfate and concentrated in vacuum. The residue is chromatographed on a column of silica gel, which is eluted with 20% methanolmethylene chloride. The eluate is concentrated in vacuum to give a crystalline product, which is washed with hot isopropyl ether to give a mixture of (Z)- and (E)-isomers (8.5 g). The mixture is crystallized from ethyl acetateisopropyl ether to give (E)-3-[N-(dimethylaminosulfonyl)-amino]-4'-methoxybenzophenone oxime (1.63 g) as crystals melting at 162° to 164° C.

reactant | 3-[N-(dimethylaminosulfonyl)-amino]-4'-methoxybenzophenone | 9 g | CN(S(=O)(=O)NC=1C=C(C(=O)C2=CC=C(C=C2)OC)C=CC1)C | C16H18N2O4S
reactant | hydroxylamine hydrochloride | 11.23 g | Cl.NO
solvent | ethanol | 180 ml | C(C)O | C2H6O
product | (E)-3-[N-(dimethylaminosulfonyl)-amino]-4'-methoxybenzophenone oxime | 1.63 g | CN(S(=O)(=O)NC=1C=C(/C(/C2=CC=C(C=C2)OC)=N/O)C=CC1)C | C16H19N3O4S
